US05273975
5,6-Dihydro-N,N-dimethyl-4H-pyrrolo(3,2,1ij)quinolin-5-amine (compound 87)
This compound was prepared by following the procedure of Example 18, but substituting methyl 7-(bromomethyl)-1H-indole-1-carboxylate for t-butyl 4-(bromomethyl)-1H-benzimidazole-1-carboxylate and diethyl (dimethylamino)malonte for diethyl (dipropylamino)malonate. The bulk of the product was converted to the maleate salt, mp 114°-115° C. from THF/ether.

reactant | t-butyl 4-(bromomethyl)-1H-benzimidazole-1-carboxylate | BrCC1=CC=CC=2N(C=NC21)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | diethyl (dipropylamino)malonate | C(CC)N(CCC)C(C(=O)OCC)C(=O)OCC | C13H25NO4
solvent | THF ether | C1CCOC1.CCOCC
product | 5,6-Dihydro-N,N-dimethyl-4H-pyrrolo(3,2,1ij)quinolin-5-amine | CN(C1CN2C3=C(C=CC=C3C1)C=C2)C | C13H16N2
